US08431717B2
EP 0247764 B (ORION-YHTYMÄ OY) Feb. 12, 1987 disclosed the following process for preparation of 5-(2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole hydrochloride. The process starts by reaction of alpha, alpha′-dibromo-o-xylene with 4-penten-2-one to obtain 1-(2,3-dihydro-2-vinyl-1H-inden-2-yl)ethanone. The obtained intermediate was brominated, e.g. with bromine, methylene chloride was used as solvent and 2-bromo-1-(2,3-dihydro-2-vinyl-1H-inden-2-yl)-ethanone was obtained, which is thereafter reacted with formamide in excess formamide to give a 4(5)-(2,3-dihydro-2-vinyl-1H-inden-2-ylimidazole hydrochloride. As the last step the vinyl group was catalytically hydrogenated to an ethyl group so as to form a product 4(5)-(2,3-dihydro-2-ethyl-1H-inden-2-yl) imidazole.

reactant | 5-(2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole hydrochloride | Cl.C(C)C1(CC2=CC=CC=C2C1)C1=CN=CN1
reactant | 4-penten-2-one | CC(CC=C)=O | C5H8O
product | 1-(2,3-dihydro-2-vinyl-1H-inden-2-yl)ethanone | C(=C)C1(CC2=CC=CC=C2C1)C(C)=O | C13H14O
